US06525001B1
Step A: Preparation of 5-methyl-2-(4-trifluoromethylphenyl)pyrimidine
A sample of 4-trifluoromethylbenzamidine hydrochloride dihydrate (Maybridge, 15.2 g, 58 mmol) was dissolved in 100 mL of methanol and 3-ethoxy-2-methylacrolein (Janssen, 7.8 g, 64 mmol) was added. Sodium methoxide (25% solution in methanol, 14.7 mL) was added and the mixture was heated at 50° C. for 3 h. The cooled reaction mixture was then dded to 500 ml of ice water and stirred for 30 minutes. The white solid was filtered, air dried, dissolved in 300 mL of dichloromethane and dried over magnesium sulfate. The solvent was removed under reduced pressure to yield, after trituration with hexanes, 12.5 g of the product as a white solid melting at 143-146° C. 1H NMR (CDCl3): δ2.37 (s, 3H), 7.73 (d, 2H), 8.53 (d, 2H), 8.66 (s, 2H).

reactant | 4-trifluoromethylbenzamidine hydrochloride dihydrate | 58 mmol, 15.2 g | O.O.Cl.FC(C1=CC=C(C(=N)N)C=C1)(F)F
reactant | 3-ethoxy-2-methylacrolein | 64 mmol, 7.8 g | C(C)OC=C(C=O)C | C6H10O2
reactant | Sodium methoxide | 14.7 mL | C[O-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 5-methyl-2-(4-trifluoromethylphenyl)pyrimidine | CC=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C12H9F3N2
